US07419620B2
A mixture of 15 g of 1-(4-nitro-phenylazo)-4-(dimethylamino)naphtalene, 75 ml sodiumhydrogen sulphate nonahydrate (50% wt in water) and 80 ml of methanol was heated at reflux for 3 h. The reaction mixture was then cooled to room temperature and poured into 300 ml of water. The brownish precipitate was filtered off, washed with water (200 ml) and cold methanol-water (100 ml/100 ml) to give 12 g of nearly pure 1-(4-amino-phenylazo)-4-(dimethylamino)naphtalene as a brownish solid.

reactant | 1-(4-nitro-phenylazo)-4-(dimethylamino)naphtalene | 15 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C2=CC=CC=C12)N(C)C | C18H16N4O2
reactant | sodiumhydrogen sulphate nonahydrate | 75 ml | O.O.O.O.O.O.O.O.O.S(=O)(=O)(O)[O-].[Na+]
reactant | methanol | 80 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 1-(4-amino-phenylazo)-4-(dimethylamino)naphtalene | NC1=CC=C(C=C1)N=NC1=CC=C(C2=CC=CC=C12)N(C)C | C18H18N4
